chemprop_1/tests/data/regression/rxn/e2sn2/fold_0/aam_train.csv
AAM,act
[Cl-:2].[Cl:1][C@:5]([C:4]([H:3])([N:31]([H:32])[H:33])[H:41])([C:11]([H:12])([H:13])[H:14])[N+:21]([O-:22])[O:23]>>[C:4](=[C:5](/[C:11]([H:12])([H:13])[H:14])[N+:21]([O-:22])[O:23])(\[N:31]([H:32])[H:33])[H:41].[Cl-:1].[Cl:2][H:3],38.521164512617226
[Br:1][C@:5]([C@:4]([H:3])([C:31]([H:32])([H:33])[H:34])[N:41]([H:42])[H:43])([N+:11]([O-:12])[O:13])[N:21]([H:22])[H:23].[F-:2]>>[Br-:1].[F:2][C@@:5]([C@:4]([H:3])([C:31]([H:32])([H:33])[H:34])[N:41]([H:42])[H:43])([N+:11]([O-:12])[O:13])[N:21]([H:22])[H:23],25.35297236387973
[Cl-:2].[Cl:1][C@:5]([C:4]([H:3])([H:31])[N:41]([H:42])[H:43])([C:11]#[N:12])[N:21]([H:22])[H:23]>>[C:4](=[C:5](/[C:11]#[N:12])[N:21]([H:22])[H:23])(\[H:31])[N:41]([H:42])[H:43].[Cl-:1].[Cl:2][H:3],32.31539952947584
[Br-:2].[Br:1][C@:5]([C:4]([H:3])([H:31])[N:41]([H:42])[H:43])([H:11])[N+:21]([O-:22])[O:23]>>[Br-:1].[Br:2][H:3].[C:4](=[C:5](/[H:11])[N+:21]([O-:22])[O:23])(\[H:31])[N:41]([H:42])[H:43],31.79988837643014
[Cl:1][C@:5]([C:4]([H:3])([H:31])[C:41]#[N:42])([N+:11]([O-:12])[O:13])[H:21].[H-:2]>>[Cl-:1].[H:2][C:5]([C:4]([H:3])([H:31])[C:41]#[N:42])([N+:11]([O-:12])[O:13])[H:21],2.4028655359909887
[F:1][C:5]([C:4]([H:3])([C:31]#[N:32])[C:41]#[N:42])([C:11]([H:12])([H:13])[H:14])[C:21]([H:22])([H:23])[H:24].[H-:2]>>[F-:1].[H:2][C:5]([C:4]([H:3])([C:31]#[N:32])[C:41]#[N:42])([C:11]([H:12])([H:13])[H:14])[C:21]([H:22])([H:23])[H:24],30.33699382682002
[F-:2].[F:1][C@:5]([C:4]([H:3])([C:31]#[N:32])[C:41]#[N:42])([N:11]([H:12])[H:13])[C:21]#[N:22]>>[F-:1].[F:2][C@@:5]([C:4]([H:3])([C:31]#[N:32])[C:41]#[N:42])([N:11]([H:12])[H:13])[C:21]#[N:22],31.789755296343927
[Br:1][C@:5]([C:4]([H:3])([H:31])[H:41])([H:11])[N+:21]([O-:22])[O:23].[H-:2]>>[Br-:1].[C:4](=[C:5]([H:11])[N+:21]([O-:22])[O:23])([H:31])[H:41].[H:2][H:3],7.715126558132916
[Cl:1][C:5]([C:4]([H:3])([H:31])[H:41])([C:11]#[N:12])[C:21]([H:22])([H:23])[H:24].[H-:2]>>[C:4](=[C:5]([C:11]#[N:12])[C:21]([H:22])([H:23])[H:24])([H:31])[H:41].[Cl-:1].[H:2][H:3],8.013111059009226
[Cl:1][C@:5]([C:4]([H:3])([N:31]([H:32])[H:33])[H:41])([N:11]([H:12])[H:13])[H:21].[H-:2]>>[Cl-:1].[H:2][C:5]([C:4]([H:3])([N:31]([H:32])[H:33])[H:41])([N:11]([H:12])[H:13])[H:21],17.439661543003528
[Br-:2].[Br:1][C:5]([C:4]([H:3])([N+:31]([O-:32])[O:33])[N+:41]([O-:42])[O:43])([H:11])[H:21]>>[Br-:1].[Br:2][C:5]([C:4]([H:3])([N+:31]([O-:32])[O:33])[N+:41]([O-:42])[O:43])([H:11])[H:21],27.234363055325304
[F:1][C@:5]([C@:4]([H:3])([C:31]([H:32])([H:33])[H:34])[N+:41]([O-:42])[O:43])([N:11]([H:12])[H:13])[C:21]([H:22])([H:23])[H:24].[H-:2]>>[C:4](=[C:5](/[N:11]([H:12])[H:13])[C:21]([H:22])([H:23])[H:24])(\[C:31]([H:32])([H:33])[H:34])[N+:41]([O-:42])[O:43].[F-:1].[H:2][H:3],0.1795729489860766
[Br-:2].[F:1][C@:5]([C:4]([H:3])([C:31]([H:32])([H:33])[H:34])[C:41]([H:42])([H:43])[H:44])([H:11])[C:21]([H:22])([H:23])[H:24]>>[Br:2][C@@:5]([C:4]([H:3])([C:31]([H:32])([H:33])[H:34])[C:41]([H:42])([H:43])[H:44])([H:11])[C:21]([H:22])([H:23])[H:24].[F-:1],48.6759556024484
[Br-:2].[Cl:1][C:5]([C@:4]([H:3])([C:31]#[N:32])[C:41]([H:42])([H:43])[H:44])([H:11])[H:21]>>[Br:2][C:5]([C@:4]([H:3])([C:31]#[N:32])[C:41]([H:42])([H:43])[H:44])([H:11])[H:21].[Cl-:1],30.40292677333861
[Br:1][C@:5]([C:4]([H:3])([C:31]([H:32])([H:33])[H:34])[C:41]([H:42])([H:43])[H:44])([N:11]([H:12])[H:13])[C:21]([H:22])([H:23])[H:24].[H-:2]>>[Br-:1].[C:4](=[C:5]([N:11]([H:12])[H:13])[C:21]([H:22])([H:23])[H:24])([C:31]([H:32])([H:33])[H:34])[C:41]([H:42])([H:43])[H:44].[H:2][H:3],8.54737010219687
[Br:1][C:5]([C:4]([H:3])([H:31])[H:41])([H:11])[H:21].[Cl-:2]>>[Br-:1].[C:4](=[C:5]([H:11])[H:21])([H:31])[H:41].[Cl:2][H:3],33.72123688494102
[Br-:2].[Br:1][C:5]([C:4]([H:3])([H:31])[H:41])([H:11])[H:21]>>[Br-:1].[Br:2][H:3].[C:4](=[C:5]([H:11])[H:21])([H:31])[H:41],32.98964137492927
[Cl:1][C@:5]([C:4]([H:3])([H:31])[H:41])([C:11]#[N:12])[N:21]([H:22])[H:23].[F-:2]>>[C:4](=[C:5]([C:11]#[N:12])[N:21]([H:22])[H:23])([H:31])[H:41].[Cl-:1].[F:2][H:3],14.234452885825888
[Br:1][C@:5]([C:4]([H:3])([C:31]([H:32])([H:33])[H:34])[C:41]([H:42])([H:43])[H:44])([H:11])[C:21]([H:22])([H:23])[H:24].[H-:2]>>[Br-:1].[H:2][C:5]([C:4]([H:3])([C:31]([H:32])([H:33])[H:34])[C:41]([H:42])([H:43])[H:44])([H:11])[C:21]([H:22])([H:23])[H:24],7.79306496443434
[Cl:1][C@:5]([C:4]([H:3])([C:31]([H:32])([H:33])[H:34])[H:41])([C:11]([H:12])([H:13])[H:14])[C:21]#[N:22].[F-:2]>>[C:4](=[C:5](/[C:11]([H:12])([H:13])[H:14])[C:21]#[N:22])(\[C:31]([H:32])([H:33])[H:34])[H:41].[Cl-:1].[F:2][H:3],11.324893791601806
[Cl:1][C@:5]([C:4]([H:3])([C:31]#[N:32])[C:41]#[N:42])([N:11]([H:12])[H:13])[N+:21]([O-:22])[O:23].[F-:2]>>[Cl-:1].[F:2][C@@:5]([C:4]([H:3])([C:31]#[N:32])[C:41]#[N:42])([N:11]([H:12])[H:13])[N+:21]([O-:22])[O:23],26.36049903288726
[F:1][C@:5]([C:4]([H:3])([C:31]([H:32])([H:33])[H:34])[C:41]([H:42])([H:43])[H:44])([C:11]#[N:12])[N:21]([H:22])[H:23].[H-:2]>>[F-:1].[H:2][C@@:5]([C:4]([H:3])([C:31]([H:32])([H:33])[H:34])[C:41]([H:42])([H:43])[H:44])([C:11]#[N:12])[N:21]([H:22])[H:23],23.42687900951421
